US09216999B2
N-Methoxy-N,2-dimethylbenzamide
2-Methylbenzoic acid (1.00 g, 7.34 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.69 g, 8.81 mmol) in chloroform (10 mL) stirred with N,N-diisopropylethylamine (1.50 mL, 8.81 mmol) for 10 minutes under cooling with ice and then stirred with N,O-dimethylhydroxylamine hydrochloride (860 mg, 8.81 mmol) and N,N-diisopropylethylamine (1.50 mL, 8.81 mmol) for one day while the temperature was gradually raised to room temperature. After addition of water, the reaction mixture was extracted with chloroform, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a pale yellow oil (658 mg, yield 50%).

reactant | 2-Methylbenzoic acid | 7.34 mmol, 1.00 g | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8.81 mmol, 1.69 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 8.81 mmol, 1.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 8.81 mmol, 860 mg | Cl.CNOC
reactant | N,N-diisopropylethylamine | 8.81 mmol, 1.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-Methoxy-N,2-dimethylbenzamide | 658 mg, yield 50% | CON(C(C1=C(C=CC=C1)C)=O)C | C10H13NO2
